US06995162B2
3,3-Dimethyl-6-nitro-1-piperidin-4-ylmethyl-2,3-dihydro-1H-indole
3,3-Dimethyl-1-(1-Boc-piperidin-4-ylmethyl)-6-nitro-2,3-dihydro-1H-indole was dissolved in HCl/EtOAc and stirred for 2 h. The mixture was concentrated in vacuo and partitioned between 1,2-dichloroethane and iN NaOH. The organic layer was removed, washed with brine, dried (Na2SO4) and filtered. The material was used without further purification.

reactant | 3,3-Dimethyl-1-(1-Boc-piperidin-4-ylmethyl)-6-nitro-2,3-dihydro-1H-indole | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])CC1CCN(CC1)C(=O)OC(C)(C)C)C | C21H31N3O4
solvent | HCl EtOAc | Cl.CCOC(=O)C
product | 3,3-Dimethyl-6-nitro-1-piperidin-4-ylmethyl-2,3-dihydro-1H-indole | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])CC1CCNCC1)C | C16H23N3O2
